US08304438B2
4-{3-[5-(2-Fluoro-phenyl)-thiophen-2-yl]-acryloyl}-piperazin-2-one
The compound was prepared analogously to Example 4(b) using 150 mg (0.6 mmol) of 3-[5-(2-fluoro-phenyl)-thiophen-2-yl]-acrylic acid and 54.2 mg (0.54 mmol) of piperazin-2-one. Yield: 109 mg.

reactant | 3-[5-(2-fluoro-phenyl)-thiophen-2-yl]-acrylic acid | 0.6 mmol, 150 mg | FC1=C(C=CC=C1)C1=CC=C(S1)C=CC(=O)O | C13H9FO2S
reactant | piperazin-2-one | 0.54 mmol, 54.2 mg | N1C(CNCC1)=O | C4H8N2O
product | 4-{3-[5-(2-Fluoro-phenyl)-thiophen-2-yl]-acryloyl}-piperazin-2-one | FC1=C(C=CC=C1)C1=CC=C(S1)C=CC(=O)N1CC(NCC1)=O | C17H15FN2O2S
